US07205326B2
3-(4-Fluoro-2-trifluoromethyl-phenyl)-acrylamide (1.0 g, 4.29 mmol), dichloro acetone (2.18 g, 17.15 mmol) and toluene (10 ml) were kept at reflux temperature for 16 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 2:1) yielding 0.93 g (71%) 4-chloromethyl-2-[2-(4-fluoro-2-trifluoromethyl-phenyl)-vinyl]-oxazole as tan solid.

reactant | 3-(4-Fluoro-2-trifluoromethyl-phenyl)-acrylamide | 4.29 mmol, 1.0 g | FC1=CC(=C(C=C1)C=CC(=O)N)C(F)(F)F | C10H7F4NO
reactant | dichloro acetone | 17.15 mmol, 2.18 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-[2-(4-fluoro-2-trifluoromethyl-phenyl)-vinyl]-oxazole | 0.93 g, 71% | ClCC=1N=C(OC1)C=CC1=C(C=C(C=C1)F)C(F)(F)F | C13H8ClF4NO
